US06218538B1
3-Phenylpropyl 4-(4-cyanophenyl)-6-[(2-(N,N-diethylamino)ethoxy)methyl]-2-(2-furyl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(N,N-diethylamino)ethoxy)acetoacetate (2.0 g, 5.96 mmol), 4-cyanobenzaldehyde (0.86 g, 6.56 mmol), 2-amidinofuran hydrochloride (0.962 g, 6.56 mmol) and sodium hydrogen carbonate (0.551 g, 6.56 mmol) was stirred in N,N-dimethylformamide (10 mL) for 24 h at room temperature and then heated to 60° C. for 5 days. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. The oil was further purified by flash chromatography and RP-HPLC to give the title compound (683.7 mg) as an oil. Electrospray MS m/z 541 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(N,N-diethylamino)ethoxy)acetoacetate | 5.96 mmol, 2.0 g | C(C)N(CC)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C19H29NO4
reactant | 4-cyanobenzaldehyde | 6.56 mmol, 0.86 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2-amidinofuran hydrochloride | 6.56 mmol, 0.962 g | Cl.C(N)(=N)C=1OC=CC1
reactant | sodium hydrogen carbonate | 6.56 mmol, 0.551 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Phenylpropyl 4-(4-cyanophenyl)-6-[(2-(N,N-diethylamino)ethoxy)methyl]-2-(2-furyl)-1,4-dihydropyrimidine-5-carboxylate | 683.7 mg | C(#N)C1=CC=C(C=C1)C1N=C(NC(=C1C(=O)OCCCC1=CC=CC=C1)COCCN(CC)CC)C=1OC=CC1 | C32H36N4O4
